US05776948
160 mg of 60% sodium hydride was suspended in 18 ml of N,N-dimethylformamide and 877 mg of trimethylsulfoxonium iodide was added thereto under ice-cooling. After stirring at room temperature for 40 minutes, 1.80 g of ethyl 1-cyclopropyl-7-(l-diphenylmethoxycarbonylvinyl)-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate was added thereto and the resulting mixture was stirred at 50° C. for 3 hours. To the reaction mixture, 30 ml of ethyl acetate and 15 ml of water were added and the pH value of the mixture was regulated to 1 with 2N hydrochloric acid. Then the organic layer was collected, successively washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After removing the solvent under reduced pressure, the residue thus obtained was crystallized by adding ethyl acetate/n-hexane and the crystals were collected by filtration. Thus 497 mg of ethyl 1-cyclopropyl-7-(1-diphenylmethoxycarbonylcyclopropyl)-6- fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate was obtained (yield: 26.9%).

reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 877 mg | [I-].C[S+](=O)(C)C
reactant | ethyl 1-cyclopropyl-7-(l-diphenylmethoxycarbonylvinyl)-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.80 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C(=C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)F)=O)C(=O)OCC | C32H28FNO6
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 1-cyclopropyl-7-(1-diphenylmethoxycarbonylcyclopropyl)-6- fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 497 mg, yield: 26.9% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C1(CC1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)F)=O)C(=O)OCC | C33H30FNO6
